US06444685B1
1-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Methylamide
Reference Example 20, 1-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid methylamide, was hydrolyzed to the corresponding ketone according to the procedure of Reference Example 5, and then reacted with 4-((2S)-3-amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one according to the procedure of Example 1 to give the title compound as a tan solid; mp 36-39° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.20-2.00 (m, 8H), 2.55 (d, 3H), 2.50-3.40 (m, 6H), 3.70-4.10 (m, 6H), 4.85-4.95 (m, 1H), 6.55 (d, 1H), 6.60 (d, 1H), 6.80 (t, 2H), 7.35 (d, 2H), 7.60 (d, 2H), 7.90 (q, 1H), 10.60 (br s, 1H), 10.70 (br s, 1H), MS (ES) m/z: 573.1 (MH+); HRMS Calcd. for C27H37N6O6S (MH+): 573.2490. Found: 573.2495.

reactant | 1-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid methylamide | CNC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C19H27N3O5S
reactant | 4-((2S)-3-amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
product | 1-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Methylamide | CNC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C27H36N6O6S
